Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pneumococal vaccine
 
Attending: ___.
 
Chief Complaint:
Right hand redness  
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ presents with hx of DVTs on coumadin presents with right 
hand cellulitis. Patient was seen at a medical clinic 2 days ago 
with mild cellulitis of the right hand and was started on 
Keflex, however, she return to the clinic today with worsening 
symptoms, severe pain and fever to 101. She was then sent to the 
emergency department for further evaluation. Patient denies any 
injury to the affected extremity. Denies any shaking chills. 
Denies any numbness or weakness in the affected extremity.  
 
She denies any bites, lacerations or exposures. Patient states 
she was in her usual state of health until late last week when 
she started to have right hand swelling, pain and erythema. She 
was seen at an outside urgent care who gave her Keflex. She 
returned to the urgent care today with worsening of her right 
hand swelling and erythema tracking to the volar wrist despit 
Keflex and was subsequently transferred to ___. On exam she 
has swelling and erythema over the dorsal and palmar aspect of 
the thumb and index finger tracking proximally over the dorsum 
of the hand and to the volar aspect of the wrist. No drainable 
fluid collections. Neurovascularly intact on exam.  Obtaining 
basic labs and starting vancomycin. Hand surgery has been 
consulted and has evaluated the patient to evaluate for possible 
flexor tenosynovitis which they do not feel the patient 
currently has. Given the patient's failure of outpatient Keflex 
with rapidly expanding cellulitis will plan to admit to medicine 
for further management and observation. Hand surgery has stated 
they will be following along inpatient.  

-In the ED, initial VS were: ___ 90 143/84 16 96% RA  
-Exam notable for: notable for significant swelling of the 
patient's hand with erythema extending one quarter of the way up 
the forearm. Based on the outpatient notes this is a rapidly 
progressing cellulitis.  
  
On arrival to the floor, patient reports above history, with sx 
for about 3 days, no triggers, no injury, no fevers/chills, no 
URI, abdominal pain, no travel, no pets. She has never had other 
skin infections that required admission.  
 
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
-DVTs on Coumadin since 1990s, no hx of hypercoagulation, no PE  

 -HLD  
 -Thrombophlebitis  
 -Osteoarthritis  

 
Social History:
___
Family History:
COPD in her mother, also thinks mother was on coumadin, possible 
stroke in her father, 
 
Physical Exam:
ADMISSION:
 VS: 99.7 148/85 89 16 97 RA  
 GENERAL: NAD, well appearing  
 HEENT: PERRL, pink conjunctiva, MMM  
 NECK: supple, no LAD, no JVD , no axillary LAD  
 HEART: RRR, S1/S2, no murmurs  
 LUNGS: CTA bilaterally aside from decreased breath sounds at 
left base  
 ABDOMEN: nondistended, nontender in all quadrants  
 EXTREMITIES: no ___ edema, right hand and arm without any 
lesions although prominent PIP and DIP. right hand with cast on, 
swelling and erythema over dorsal thumb and index finger, no 
fluctuance, full painless ROM, pain with flexion of thumb and 
index finger, minimal erythema over palmar surface, slight 
bullae like appearance over dosrsal area, good 2+ radial pulse 
b/l  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3  

DISCHARGE:
VITALS: 98.9 PO 129 / 79 L Lying 65 18 97 Ra    
GENERAL: NAD, well appearing  
HEENT: PERRL, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD, no axillary LAD  
HEART: RRR, S1/S2, no murmurs  
LUNGS: CTAB, no wheezes, rales or rhonchi
ABDOMEN: nondistended, nontender in all quadrants  
EXTREMITIES:  Right hand and forearm in cast. Shiny quality to 
exposed area of proximal thumb. Prominent prominent PIP and DIP, 
with swelling to dorsal thumb and index finger. no fluctuance, 
painless passive ROM to thumb and forefinger, improved from 
prior flexion of thumb and index finger
LYMPH: no LAD
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, memory intact to distant medical events but not to 
recent ones, asking how many days she has been in the hospital 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:15PM BLOOD WBC-9.3 RBC-4.42 Hgb-12.3 Hct-36.0 
MCV-81* MCH-27.8 MCHC-34.2 RDW-13.2 RDWSD-39.2 Plt ___
___ 10:15PM BLOOD Neuts-64.8 ___ Monos-15.0* 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-5.98 AbsLymp-1.78 
AbsMono-1.39* AbsEos-0.01* AbsBaso-0.05
___ 10:15PM BLOOD ___ PTT-40.0* ___
___ 10:15PM BLOOD Glucose-104* UreaN-22* Creat-0.9 Na-137 
K-3.1* Cl-95* HCO3-22 AnGap-20*
___ 07:20AM BLOOD Calcium-8.4 Phos-2.3* Mg-2.0
___ 10:15PM BLOOD CRP-170.6*
___ 10:15PM BLOOD SED RATE-Test     48  H   

PERTINENT LABS:
===============
___ 07:20AM BLOOD ___
___ 07:20AM BLOOD ___ PTT-32.0 ___
___ 08:40AM BLOOD ___ PTT-30.9 ___
___ 07:19AM BLOOD ___ PTT-29.5 ___
___ 07:10AM BLOOD Glucose-106* UreaN-28* Creat-0.9 Na-142 
K-4.3 Cl-103 HCO3-27 AnGap-12
___ 10:15PM BLOOD CRP-170.6*
___ 10:15PM BLOOD SED RATE-Test   ___  H   

IMAGING:
======== 
___ Hand Xray:
No fracture or dislocation is seen.  Moderate degenerative 
changes of the ___  CMC joint.  Severe degenerative changes at 
the index finger and long finger  DIP joints..  No bone erosion 
or periostitis is identified.  There is diffuse  
demineralization.  A nonaggressive appearing 8 mm sclerotic 
lesion in the  distal radius likely represents a bone island.  
No radiopaque foreign body is  identified.  There is vascular 
calcifications. 
  
IMPRESSION:    
1.  No fracture or dislocation.  No radiopaque foreign bodies. 
2.  Moderate to severe degenerative changes as described.
 
Brief Hospital Course:
___ year old female with history of DVTs, Factor V Leiden 
heterozeigosity on Coumadin, HLD presenting with persistent 
right hand swelling/erythema consistent with cellulitis.

#Hand cellulitis:
#Osteoarthritis:
Rapidly worsening cellulitis per documentation, along with 
fevers, elevated inflammatory markers despite ___ days of 
Keflex. Xray without fracture or joint erosion. Hand was 
consulted, recommended no surgical intervention. No classical 
risk factors for MRSA, however empiric treatment with vancomycin 
resulted in marked improvement(resolved erythema, reduced edema, 
pain.) She was treated with vancomycin/Ceftriaxone (___) 
with improvement in swelling and range of motion. Underlying 
osteoarthritis considered possible contributing to welling, 
however this unusual to be sole cause given multiple joints 
involved, extension from DIP to wrist. Pain was controlled with 
Tylenol. Discharged with plan to complete for 7 day course to 
cover MRSA. Amoxicillin/doxycycline were chosen for ease of 
dosing (___) Activity recommendations were as followed: 
strict elevation in volar resting slab splint. Discharged with 
___.

#MCI
Patient was noted to be poor historian for recent events with 
neurocognitive testing suggesting MCI in ___. On presentation 
had supratherapeutic INR raising concern for medication 
nonadherence. ___ (daughter, HCP) noted forgetfulness over the 
last months, prompts to take medication. She noticed her mom 
does best with routine at home.  Recommend continued follow up 
with PCP and reassessment by neuro-psych.  ___ can also help 
assess home situation. 

#Hx of DVT/ Factor V Leiden heterozygosity:
Per atrius records; on lifelong AC. Perhaps suspicion of APLS, 
as heterozygosity FVL is not in itself indication. INR 
supratherapeutic on admission. Downtrended. Discharged with plan 
for close interval follow up.

#Relative hypotension: 
#HTN:
Presented normotensive. Had relative hypotension to 88 SBP 
(asymptomatic, no fever or emerging sepsis) after administration 
of antihypertensives. In this patient with likely advancing MCI, 
thought to be due to giving home doses in the hospital with 
concern that she was not taking these at home.  Home Lisinopril, 
amlodipine, were held.  ___ can assist with blood pressure 
monitoring and medication assistance. 

#HLD: 
Continued simvastatin 

Transitional Issues:
====================
[] Follow up INR ___ 
[] Monitor BP, reintroduce antihypertensives as indicated
[] Recommend repeat neurocognitive testing given above

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Warfarin 5 mg PO DAILY16 
6. Cephalexin 500 mg PO Q12H 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 4 Days  
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*8 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H Duration: 4 Days  RX 
*doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.  Warfarin 5 mg PO DAILY16  
6. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until you see your primary care doctor
7. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you see your primary care doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis

Secondary:
H/O DVT, Factor V leiden heterozygosity on Coumadin
HTN
HLD
MCI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
You had swelling and redness of your hand because of an 
infection that did not get better with a few days of oral 
antibiotics.

WHAT HAPPENED IN THE HOSPITAL?
You had an xray which showed no broken bones or unexpected 
changes to your joints.
You were seen by the hand orthopedic surgery team. They wrapped 
your hand and followed you closely.
You were given intravenous antibiotics to treat your infection. 
Your swelling improved.
Your blood pressures were low when we gave you your home 
medication for blood pressure (amlodipine and lisinopril) so we 
held these medications. They should not be restarted until you 
see your primary care doctor.

WHAT SHOULD I DO WHEN I GO HOME?
Take your medication as prescribed.
Use your resting splint and elevate your hand when possible.
Follow up with your primary care doctor, and the hand surgery 
team (see appointments below.)

We wish you the best!
-Your Care Team at ___

 
Followup Instructions:
___